US06706751B2
To 70 mg (0.25 mmol) Diethyl-[4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-butyl]-amine in 1.4 ml DMF 87 μl (0.5 mmol) Huenig's base and 54 μl (0.38 mmol) benzyl chloroformate were added. The solution was stirred at RT over night, was concentrated and the residue was dissolved in ether and 0.1M NaOH. The inorganic phase was extracted with ether and the combined organic phases were washed with water and dried over Na2SO4. Column chromatography on silica gel with CH2Cl2MeOH 5:1 yielded 40 mg (38%) 6-(4-Diethylamino-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester as light yellow oil, MS: 411 (MH+).

reactant | Diethyl-[4-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-butyl]-amine | 0.25 mmol, 70 mg | C(C)N(CCCCOC=1C=C2CCCNC2=CC1)CC | C17H28N2O
reactant | DMF | 0.5 mmol, 1.4 ml | CN(C)C=O | C3H7NO
reactant | benzyl chloroformate | 0.38 mmol, 54 μl | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | 6-(4-Diethylamino-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester | 40 mg, 38% | C(C1=CC=CC=C1)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCN(CC)CC | C25H34N2O3
